US07429609B2
3-(3-Fluorophenyl)-1H-pyrazolo[4,3-b]pyridine
1.5 g of (3-fluorophenyl)-(3-fluoropyridin-2-yl)-methanone was dissolved in 5 mL of methanol, added with 1.0 mL of hydrazine monohydrate, and heated at 80° C. for 4 hours. The reaction solution was added with water, and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:4), to afford 240 mg of the title compound as a colorless powder.

reactant | (3-fluorophenyl)-(3-fluoropyridin-2-yl)-methanone | 1.5 g | FC=1C=C(C=CC1)C(=O)C1=NC=CC=C1F | C12H7F2NO
reactant | hydrazine monohydrate | 1.0 mL | O.NN
reactant | water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 3-(3-Fluorophenyl)-1H-pyrazolo[4,3-b]pyridine | 240 mg | FC=1C=C(C=CC1)C1=NNC=2C1=NC=CC2 | C12H8FN3
